US05034411
a) 4-[3-(ethylamino)-2-hydroxypropoxy]- benzonitrile
86.0 g of 4-(oxiranylmethoxy) benzonitrile was dissolved in 250 ml acetonitrile and mixed with 29.7 g ethylamine in an autoclave. The mixture was heated in a boiling water-bath over night, evaporated and the residue was dissolved in 2 M hydrochloric acid. This acid waterlayer was washed twice with ether, alkalized with 10 M sodium hydroxide and extracted with three portions of dichloromethane.

reactant | 4-(oxiranylmethoxy) benzonitrile | 86.0 g | O1C(C1)COC1=CC=C(C#N)C=C1 | C10H9NO2
reactant | ethylamine | 29.7 g | C(C)N | C2H7N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-[3-(ethylamino)-2-hydroxypropoxy]- benzonitrile | C(C)NCC(COC1=CC=C(C#N)C=C1)O | C12H16N2O2
